US09125946B2
N-Acetyl-3-Iodo-2-Methyl Aniline
Charge a 5 L, 3 neck flask equipped with a mantle, stirrer, condenser, with 708 grams (5M) 3-Iodo-2-Methyl Aniline, followed by 700 ml glacial acetic acid. Add in a stream of 520 grams (5.1M) acetic anhydride and allow the solution to come to a gentle reflux for an hour. The solution is allowed to cool and poured in a stream in a large container of 8 L ice water. The product will crystallize immediately and is filtered and squeezed under vacuum and air-dried. Yield was 900 grams (Theoretical yield=918 g).

reactant | 3-Iodo-2-Methyl Aniline | 5M, 708 grams | IC=1C(=C(N)C=CC1)C | C7H8IN
reactant | acetic anhydride | 5.1M, 520 grams | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
product | N-Acetyl-3-Iodo-2-Methyl Aniline | C(C)(=O)NC1=C(C(=CC=C1)I)C | C9H10INO
